US04362728
A mixture of 6-aminopyridine-2-carboxylic acid (5.0 g.) and a 1.35 M solution of borane in tetrahydrofuran (100 ml.) was stirred under argon at reflux for 48 hours. The mixture was cooled and treated with 2 N NaOH (50 ml.) and the mixture stirred at room temperature for 18 hours. The aqueous phase was saturated with sodium chloride and the organic phase separated. The aqueous phase was extracted twice with ethyl acetate and the ethyl acetate extracts combined with the tetrahydrofuran solution and the whole evaporated to dryness. The residue was dissolved in ethyl acetate (100 ml.) and the solution washed with saturated aqueous sodium chloride solution (5 ml.) and then dried and evaporated to dryness to give crude 2-amino-6-hydroxymethylpyridine (2.3 g.) which was used without further purification.

reactant | 6-aminopyridine-2-carboxylic acid | 5.0 g | NC1=CC=CC(=N1)C(=O)O | C6H6N2O2
reactant | borane | B | BH3
reactant | NaOH | 2 N, 50 ml | [OH-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-amino-6-hydroxymethylpyridine | 2.3 g | NC1=NC(=CC=C1)CO | C6H8N2O
